US05760032
9-Aminomethyl-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine (1.07 g) was dissolved in chloroform (50 ml). 3-Methylphenyl isocyanate (0.44 g) was added at room temperature, and the mixture was stirred for 3 hours. The reaction mixture was concentrated, and crystallized from ethyl acetate. The crude crystals were recrystallized from methanol to give 1.47 g of N-(4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-9-ylmethyl)-N'-(3-methylphenyl)urea.

reactant | 9-Aminomethyl-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 1.07 g | NCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)CC | C17H16ClN5S
reactant | 3-Methylphenyl isocyanate | 0.44 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-9-ylmethyl)-N'-(3-methylphenyl)urea | 1.47 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CC)C(=NN2)CNC(=O)NC2=CC(=CC=C2)C | C25H23ClN6OS
